US08530388B2
To a stirred suspension of 2-bromo-3-methoxycyclopent-2-enone (1.0 g, 5.23 mmol), 4′-chloro-4-ethylbiphen-3-ylboronic acid (2.03 g, 7.80 mmol) and potassium phosphate (2.23 g, 10.50 mmol) in anhydrous, degassed toluene (25 ml) under an atmosphere of nitrogen is added palladium(II)acetate (24 mg, 0.105 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (86 mg, 0.209 mmol). The reaction is heated at 90° C. for 4 hours and then allowed to cool to room temperature, quenched with water (40 ml) and extracted with ethyl acetate (3×30 ml). The organic extracts are combined, washed with brine (15 ml), dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 2-(4′-chloro-4-ethylbiphen-3-yl)-3-methoxycyclopent-2-enone (1.29 g, 75%).

reactant | 2-bromo-3-methoxycyclopent-2-enone | 5.23 mmol, 1.0 g | BrC=1C(CCC1OC)=O | C6H7BrO2
reactant | 4′-chloro-4-ethylbiphen-3-ylboronic acid | 7.80 mmol, 2.03 g | ClC1=CC=C(C=2C=CC(=C(C2)B(O)O)CC)C=C1 | C14H14BClO2
reactant | potassium phosphate | 10.50 mmol, 2.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium(II)acetate | 0.105 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.209 mmol, 86 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | 2-(4′-chloro-4-ethylbiphen-3-yl)-3-methoxycyclopent-2-enone | 1.29 g, 75% | ClC1=CC=C(C=2C=CC(=C(C2)C=2C(CCC2OC)=O)CC)C=C1 | C20H19ClO2
